US03950380
By replacing in Example 2, step D, 3-benzyloxy-5-nitro-4-phenylbenzoic acid with 3-n-butoxy-5-nitro-4-phenylbenzoic acid, and following the procedure described, 5-amino-3-n-butoxy-4-phenylbenzoic acid is obtained with a melting point of 122°-124° C.

reactant | 3-benzyloxy-5-nitro-4-phenylbenzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C20H15NO5
reactant | 3-n-butoxy-5-nitro-4-phenylbenzoic acid | C(CCC)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C17H17NO5
product | 5-amino-3-n-butoxy-4-phenylbenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCCCC)C1=CC=CC=C1 | C17H19NO3
